US08614234B2
A mixture of 3-(2-bromo-pyridin-4-yloxy)-benzoic acid (200 mg, 0.68 mmol), HATU (312 mg, 0.82 mmol),) 2-fluoro-5-methylaniline (125 mg, 1.0 mmol) and N,N-diisopropylethylamine (193 mg, 1.5 mmol) in anhydrous DMF (10 ml) was stirred at 60° C. for 90 minutes. The mixture was poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give 3-(2-bromo-pyridin-4-yloxy)-N-(2-fluoro-5-methyl-phenyl)-benzamide as off-white solid. Yield: 200 mg, 74%.

reactant | 3-(2-bromo-pyridin-4-yloxy)-benzoic acid | 0.68 mmol, 200 mg | BrC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C12H8BrNO3
reactant | HATU | 0.82 mmol, 312 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-fluoro-5-methylaniline | 1.0 mmol, 125 mg | FC1=C(N)C=C(C=C1)C | C7H8FN
reactant | N,N-diisopropylethylamine | 1.5 mmol, 193 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-(2-bromo-pyridin-4-yloxy)-N-(2-fluoro-5-methyl-phenyl)-benzamide | BrC1=NC=CC(=C1)OC=1C=C(C(=O)NC2=C(C=CC(=C2)C)F)C=CC1 | C19H14BrFN2O2
